US05082932
168.4 g (1.62 mol) of sodium nitrogen sulfite were dissolved in 350 ml of water. 28 ml of 6N sodium hydroxide solution were added to this solution. It was then cooled to 10° C. and 120.1 g (0.59 mol) of crude 1-nitroso-7-methoxy-β-naphthol was stirred in. It was then diluted to a volume of 760 ml with water, during which process a temperature of 23° C. was established. Stirring was continued for 16 hours at room temperature and 9.5 g of insoluble residue was then filtered off. The filtrate was then made up to 1250 ml with water and 206.8 g (2.03 mol) of 96%-strength sulfuric acid were added, during which process the temperature rose by 10° C. The solution was allowed to stand for two days at room temperature and then the precipitated crystals were filtered off by suction. After drying, 108.5 g (68.4%) of 1-amino-2-hydroxy-7-methoxynaphthalene-4 -sulfonic acid were obtained.

reactant | sodium nitrogen sulfite | 1.62 mol, 168.4 g | S(=O)([O-])[O-].[N+3].[Na+].S(=O)([O-])[O-]
reactant | sodium hydroxide | 6N, 28 ml | [OH-].[Na+]
reactant | 1-nitroso-7-methoxy-β-naphthol | 0.59 mol, 120.1 g | N(=O)C1=C(C=CC2=CC=C(C=C12)OC)O | C11H9NO3
solvent | water | 350 ml | O | H2O
product | 1-amino-2-hydroxy-7-methoxynaphthalene-4 -sulfonic acid | 108.5 g, 68.4% | NC1=C(C=C(C2=CC=C(C=C12)OC)S(=O)(=O)O)O | C11H11NO5S
